US04636521
(i) N-[2-[5-[[(Methylsulphonyl)amino]methyl]1H-indol-3-yl]ethyl]formamide
A solution of N-[[3-(2-aminoethyl)-1H-indol-5-yl]methyl]methanesulphonamide (2.1 g) in ethanol (20 ml) and ethyl formate (25 ml) was refluxed for 17 h. The solvent was evaporated in vacuo and the residue was partitioned between sulphuric acid (1N; 100 ml) and ethyl acetate (150 ml). The aqueous layer was extracted with ethyl acetate (150 ml) and the combined organic extracts were washed with brine (50 ml) and potassium carbonate solution (15%; 50 ml) and dried (Na2SO4). Evaporation of the solvent in vacuo gave the crude product as a very viscous oil (2.2 g). The oil was dissolved in THF (8 ml), scratched and left overnight at room temperature. Filtration gave the title compound (1.3 g) as a white solid m.p. 121°-5°.

reactant | N-[[3-(2-aminoethyl)-1H-indol-5-yl]methyl]methanesulphonamide | 2.1 g | NCCC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C | C12H17N3O2S
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethyl formate | 25 ml | C(=O)OCC | C3H6O2
product | N-[2-[5-[[(Methylsulphonyl)amino]methyl]1H-indol-3-yl]ethyl]formamide | 2.2 g | CS(=O)(=O)NCC=1C=C2C(=CNC2=CC1)CCNC=O | C13H17N3O3S
